US08633173B2
To a cooled solution of 2,3-dihydro-1H-isoindole (8.80 g, 73.8 mmol) in acetonitrile (80 mL) at −10° C. was added trifluoroacetic anhydride (36.1 mL, 255 mmol) dropwise. Potassium nitrate (7.50 g, 74.2 mmol) was added in one portion to the stirred mixture. The mixture was stirred at −10° C. for 1 hour. To the mixture was added saturated aqueous sodium bicarbonate (100 mL) slowly. Vigourous gas evolution was noted. The mixture was stirred for 1 hour and allowed to warm to room temperature. The mixture was basified with saturated aqueous sodium carbonate (100 mL). The thick suspension was filtered. The solid was washed with water (200 mL), dissolved in dichloromethane (300 mL) and separated. The organic layer was dried over magnesium sulfate, filtered and evaporated to a tan solid (17.97 g). The material was purified via flash chromatography using an ISCO automated purification apparatus (silica gel column and 10%→100% Ethyl Acetate:Hexane). 2,2,2-Trifluoro-1-(5-nitro-1,3-dihydro-isoindol-2-yl)-ethanone was isolated as a crude orange solid (16.8 g, 85%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.28-8.23 (m, 1H), 8.20 (d, J=17.6 Hz, 1H), 7.50 (dd, J=21.7, 8.40 Hz, 1H), 5.14 (s, 2H), 5.02 (s, 2H). MS=261 (MH)+.

reactant | 2,3-dihydro-1H-isoindole | 73.8 mmol, 8.80 g | C1NCC2=CC=CC=C12 | C8H9N
reactant | trifluoroacetic anhydride | 255 mmol, 36.1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Potassium nitrate | 74.2 mmol, 7.50 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 2,2,2-Trifluoro-1-(5-nitro-1,3-dihydro-isoindol-2-yl)-ethanone | FC(C(=O)N1CC2=CC=C(C=C2C1)[N+](=O)[O-])(F)F | C10H7F3N2O3
